data/specific_train_final.csv
"[H:20][CH:21](C)OCCO.[OH:10]>>[H:20][OH:10].C[CH:21]OCCO 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(C1=CC=CC=C1)OO[O:20][N+:21](=O)[O-]>>CCC(C1=CC=CC=C1)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][CH2:21]C(C)(C)C.[Cl:10]>>[H:20][Cl:10].CC(C)(C)[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][O:2][O:3].[N+:5](=[O:4])([O-:7])[O:6]>>[CH3:1][O:2][O:3][O:6][N+:5](=[O:4])[O-:7] 3-3,6; 6-3,6",Room Temperature,Termination,recombine
"C[C:21](=[CH2:20])CC=O.[N+](=O)([O-])[O:10]>>C[C:21](CC=O)[CH2:20][O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][O:21][O].CCCC(CO[N+](=O)[O-])O[O:10]>>[H:20][O:10]OC(CCC)CO[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:7][C:4]([CH2:3][O:2][OH:1])([CH:8]([CH:10]=[O:11])[O:9])[O:5][OH:6].[N+:13](=[O:14])[O-:12]>>[CH3:7][C:4]([CH2:3][O:2][OH:1])([CH:8]([CH:10]=[O:11])[O:9][N+:13](=[O:14])[O-:12])[O:5][OH:6] 9-9,13; 13-9,13",Room Temperature,Termination,recombine
"C(C(O[N+](=O)[O-])Cl)[O:20][O:21]N=O>>C(C(O[N+](=O)[O-])Cl)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(COO)(C(CO)O[O:20])O.[N:10]=O>>CC(COO)(C(CO)O[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)C(C)O[O:20].[N+](=O)([O-])[O:10]>>CCC(C)C(C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC12C=CC(C(C1O)(OO2)C)(C)O[O:10]>>[H:20][O:10]OC1(C=CC2(C(C1(OO2)C)O)C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:10]1C=CC2(C(C1OO2)O)C.[O:20][O]>>CC12C=C[C:10](C(C1O)OO2)(C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)C(CO[N+](=O)[O-])O[O:20].[N:10]=O>>CC(C)C(CO[N+](=O)[O-])O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(CO)O[O:20].[N+](=O)([O-])[O:10]>>CCC(CO)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:10][C:9](=[O:11])[CH:6]([C:5]([CH3:14])([CH2:4][O:3][N+:2](=[O:1])[O-:15])[O:12][OH:13])[O:7][O:8]>>[H:10][O:8][O:7][CH:6]([C:9]=[O:11])[C:5]([CH3:14])([CH2:4][O:3][N+:2](=[O:1])[O-:15])[O:12][OH:13] 9,10-9; 9,10-8,10; 8-8,10",Room Temperature,Propagation,abstraction
"CC1=CCC(CC1O)C(C)(C)[O:20][O:21]N=O>>CC1=CCC(CC1O)C(C)(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC[C:21]1=[CH:20]C=CC=C1.[OH:10]>>CCC[C:21]1C=CC=C[CH:20]1[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)(CO)O[O:20].[N+](=O)([O-])[O:10]>>CC(C)(CO)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].C1CC(CC(=O)C1)O[O:10]>>[H:20][O:10]OC1CCCC(=O)C1.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC12C(C=CC(C1O)(OO2)C)[O:20].[O-][N+:10]=O>>CCC12C(C=CC(C1O)(OO2)C)[O:20][N+:10]([O-])=O 20-10,20; 10-10,20",Room Temperature,Termination,recombine
"[H:17][O:16][O:15][CH2:14][CH:12]([C:5]([CH3:4])([CH2:6][O:7][N+:8](=[O:10])[O-:9])[OH:11])[O:13].[N+:2](=[O:3])[O-:1]>>[H:17][O:16][O:15][CH2:14][CH:12]([C:5]([CH3:4])([CH2:6][O:7][N+:8](=[O:10])[O-:9])[OH:11])[O:13][N+:2](=[O:3])[O-:1] 2-2,13; 13-13,2",Room Temperature,Termination,recombine
"CCC12C(C(C=C[C:10]1C)[O:21][O:20]2)O>>CCC12C(C(C=C[C:10]1(C)[O:20]2)[O:21])O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)OC(C)C[O:21][O:20][O]>>CC(C)OC(C)C[O:21].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].C(C(CCl)Cl)O[O:10]>>[H:20][O:10]OCC(CCl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC(=O)OC(C)(C)CO[O:10]>>[H:20][O:10]OCC(C)(C)OC(=O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:4][O:5][O:6].[CH3:1][O:2][O:3]>>[H:4][O:5][O:6][O:3][O:2][CH3:1] 6-6,3; 3-6,3",Room Temperature,Termination,recombine
"C[C:21](CO)([CH:20](CO)[O:10])O[N+](=O)[O-]>>C[C:21](CO)O[N+](=O)[O-].C([CH:20]=[O:10])O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:20][O:21][O].CC(C)(C)OCCO[O:10]>>[H:20][O:10]OCCOC(C)(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].COC(=O)OCO[O:10]>>[H:20][O:10]OCOC(=O)OC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][C:2]([CH2:9][O:10][OH:11])([CH:3]([CH:5]=[O:6])[O:4])[O:7][OH:8]>>[CH3:1][C:2]([CH2:9][O:10][OH:11])[O:7][OH:8].[CH:3](=[O:4])[CH:5]=[O:6] 4-4,3; 2,3-2; 2,3-4,3",Room Temperature,Propagation,retroaddition
"CCC1=C(C=C([CH:10]C1O)C)O.[O:20][O]>>CCC1=C(C=C([CH:10](C1O)[O:20][O])C)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21]C1=CC=CC(=C1C)C.[OH:10]>>[H:20][OH:10].CC1=C(C(=CC=C1)[O:21])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
